US08222219B2
4-Ethylphenylacetic acid (3.0 g) (see Japanese Unexamined Patent Publication 63-233975) was dissolved in dichloromethane (15 ml), and thereto were added oxalyl chloride (6.0 ml) and N,N-dimethylformamide (one drop). The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was evaporated under reduced pressure, and the residue was subjected to azeotropic distillation with toluene to give a crude 4-ethylphenylacetyl chloride, which was used in the subsequent step without further purification. (2) A suspension of magnesium chloride (1.74 g) in dichloromethane (30 ml) was cooled to 0° C., and thereto were added t-butyl acetoacetate (3.03 ml) and pyridine (2.96 ml), and successively was added a solution of the above 4-ethylphenylacetyl chloride in dichloromethane (30 ml). The mixture was stirred at the same temperature for 2.5 hours, and an aqueous citric acid solution was added thereto. The mixture was extracted with chloroform. The extract was washed with brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to give t-butyl 2-acetyl-4-(4-ethylphenyl)-3-oxobutyrate (4.75 g) as pale yellow oil. APCI-Mass m/Z 322 (M+NH4). (3) A solution of the above t-butyl 2-acetyl-4-(4-ethylphenyl)-3-oxobutyrate in trifluoroacetic acid (60 ml) was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate, and the mixture was washed successively with a saturated aqueous sodium hydrogen carbonate solution and brine. The mixture was dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give 1-(4-ethylphenyl)-4-hydroxy-3-penten-2-one (4.00 g) as yellow oil. APCI-Mass m/Z 205 (M+H). (4) A solution of the above 1-(4-ethylphenyl)-4-hydroxy-3-penten-2-one (3.98 g) and hydrazine hydrate (4.0 ml) in toluene (20 ml) was stirred under heating at 100° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and washed successively with water and brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:ethyl acetate=2:1) to give 3-(4-ethylphenylmethyl)-5-methyl-1H-pyrazole (3.12 g) as yellow oil. APCI-Mass m/Z 201 (M+H).

reactant | t-butyl 2-acetyl-4-(4-ethylphenyl)-3-oxobutyrate | C(C)(=O)C(C(=O)OC(C)(C)C)C(CC1=CC=C(C=C1)CC)=O | C18H24O4
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-ethylphenyl)-4-hydroxy-3-penten-2-one | 4.00 g | C(C)C1=CC=C(C=C1)CC(C=C(C)O)=O | C13H16O2
